US08044222B2
Next, 120 mL of dehydrated toluene (manufactured by Hiroshima Wako Co., Ltd.), 4.08 mL of benzylamine (manufactured by Tokyo Kasei Kogyo Co., Ltd.) and 338 μL of tris-t-butylphosphine (a 2.22 mol/L toluene solution, manufactured by Aldrich Co., Ltd.) were added thereto through a rubber septum by means of a syringe and stirred at room temperature for 5 minutes. Next, the flask was set on an oil bath and gradually heated up to 120° C. while stirring the solution. After 7 hours passed, the flask was taken off from the oil bath to terminate the reaction, and it was left standing for 12 hours under argon atmosphere. The reaction solution was transferred into a separating funnel, and 600 mL of dichloromethane was added thereto to dissolve the precipitate. The solution was washed with 120 mL of a saturated brine, and then the organic layer was dried on anhydrous potassium carbonate. The solvent of the organic layer obtained by removing potassium carbonate by filtration was removed by distillation, and 400 mL of toluene and 80 mL of ethanol were added to the resulting residue. The flask to which a drying tube was mounted was heated to 80° C. to completely dissolve the residue. Then, the flask was left standing for 12 hours and slowly cooled down to room temperature to thereby expedite recrystallization. Deposited crystal was separated by filtration and dried under vacuum at 60° C., whereby 13.5 g of N,N-di-(4-biphenylyl)-benzylamine was obtained. A single neck flask of 300 mL was charged with 1.35 g of N,N-di-(4-biphenylyl)-benzylamine and 135 mg of palladium-activated carbon (palladium content: 10% by weight, manufactured by Hiroshima Wako Co., Ltd.), and 100 mL of chloroform and 20 mL of ethanol were added to dissolve it. Next, a stirring rod was put in the flask, and then a three-way cock which was equipped with a balloon filled with 2 L of hydrogen gas was mounted to the flask. The inside of the flask was substituted 10 times with hydrogen gas by means of a vacuum pump. Lost hydrogen gas was newly filled to set a volume of hydrogen gas again to 2 L, and then the solution was vigorously stirred at room temperature. After stirring for 30 hours, 100 mL of dichloromethane was added thereto, and the catalyst was separated by filtration. Next, the solution obtained was transferred into a separating funnel and washed with 50 mL of a sodium hydrogencarbonate saturated aqueous solution, and then the organic layer was separated and dried on anhydrous potassium carbonate. After filtered, the solvent was removed by distillation, and 50 mL of toluene was added to the resulting residue to carry out recrystallization. Deposited crystal was separated by filtration and dried under vacuum at 50° C., whereby 0.99 g of di-4-biphenylylamine was obtained.

reactant | N,N-di-(4-biphenylyl)-benzylamine | 1.35 g | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C31H25N
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | hydrogen | 2 L | [H][H] | H2
catalyst | palladium-activated carbon | 135 mg | [Pd] | Pd
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | di-4-biphenylylamine | 0.99 g | C1(=CC=C(C=C1)NC1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N
